US09422281B2
4-Isopropyl 1-methyl (S)-2-methyl-6-(1H-pyrazol-4-yl)-2,3-dihydroquinoxaline-1,4-dicarboxylate was synthesized from 4-isopropyl 1-methyl (S)-6-bromo-2-methyl-2,3-dihydroquinoxaline-1,4-dicarboxylate according to the procedure outlined above for (S)-isopropyl 4-(cyclopropanecarbonyl)-3-methyl-7-(1H-pyrazol-4-yl)-3,4-dihydroquinoxaline-1(2H)-carboxylate. MS (ESI, pos. ion) m/z 359 [M+1]+.

reactant | 4-isopropyl 1-methyl (S)-6-bromo-2-methyl-2,3-dihydroquinoxaline-1,4-dicarboxylate | BrC=1C=C2N(C[C@@H](N(C2=CC1)C(=O)OC)C)C(=O)OC(C)C | C15H19BrN2O4
reactant | (S)-isopropyl 4-(cyclopropanecarbonyl)-3-methyl-7-(1H-pyrazol-4-yl)-3,4-dihydroquinoxaline-1(2H)-carboxylate | C1(CC1)C(=O)N1[C@H](CN(C2=CC(=CC=C12)C=1C=NNC1)C(=O)OC(C)C)C | C20H24N4O3
product | 4-Isopropyl 1-methyl (S)-2-methyl-6-(1H-pyrazol-4-yl)-2,3-dihydroquinoxaline-1,4-dicarboxylate | C[C@@H]1N(C2=CC=C(C=C2N(C1)C(=O)OC(C)C)C=1C=NNC1)C(=O)OC | C18H22N4O4
